US08975254B2
(S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1-(pyridin-3-yl)-1H-imidazole-4-carboxamide
Under nitrogen atmosphere, a reaction flask was charged with K2CO3 (94 mg, 0.678 mmol), CuI (12.9 mg, 0.068 mmol), 1,3-di(2-pyridyl)-1,3-propanedione (15.3 mg, 0.068 mmol), (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1H-imidazole-4-carboxamide (250 mg, 0.678 mmol), dry DMF (5 ml) and 3-bromopyridine (0.065 ml, 107 mg, 0.678 mmol). The reaction mixture was stirred for 2 h at 130° C. 3-Bromopyridine (0.070 ml, 115 mg, 0.727 mmol) was added, and then heating was continued for 4 h at 140° C. 3-Bromopyridine (0.070 ml, 115 mg, 0.727 mmol) was added again, and heating was continued for 1 h at 170° C. under microwaves. Then the reaction mixture was cooled to RT and passed through a plug of Celite. After being rinsed with ethyl acetate, the combined filtrates were washed with saturated brine, dried and concentrated. The residue was purified by flash chromatography on silica gel using CH2Cl2-MeOH as a gradient eluent (99.5:0.5-98:2). 1H NMR (400 MHz, CDCl3): 1.25 (3H, d), 2.40 (3H, s), 4.32 (1H, distorted dd), 4.43 (1H, distorted dd), 4.61 (1H, m), 6.63 (1H, d), 7.50 (1H, m), 7.52 (1H, d), 7.64 (1H, s), 7.66 (1H, m), 7.67 (1H, d), 7.78 (1H, d), 7.87 (1H, dd), 8.03 (1H, d), 8.64 (1H, d), 8.74 (1H, dd).

reactant | K2CO3 | 0.678 mmol, 94 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-di(2-pyridyl)-1,3-propanedione | 0.068 mmol, 15.3 mg | N1=C(C=CC=C1)C(CC(=O)C1=NC=CC=C1)=O | C13H10N2O2
reactant | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1H-imidazole-4-carboxamide | 0.678 mmol, 250 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(NC1)C | C18H17ClN6O
reactant | 3-bromopyridine | 0.678 mmol, 0.065 ml, 107 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | 3-Bromopyridine | 0.727 mmol, 0.070 ml, 115 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | 3-Bromopyridine | 0.727 mmol, 0.070 ml, 115 mg | BrC=1C=NC=CC1 | C5H4BrN
catalyst | CuI | 0.068 mmol, 12.9 mg | [Cu]I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1-(pyridin-3-yl)-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(N(C1)C=1C=NC=CC1)C | C23H20ClN7O
